US04107319
N,S-Dimethyl-N'-[2-((5-methyl-4-imidazolyl)methylthio)ethyl]isothiourea dihydriodide
N-methyl-N'-[2-((5-methyl-4-imidazolyl)methylthio)ethyl]thiourea (10.0 g) was dissolved in methanol (400 ml) and 55% aqueous hydriodic acid (12.2 ml) was added, followed by methyl iodide (5.3 ml). The solution was heated under reflux for 4 hours and concentrated. The residue was dissolved in methanol (100 ml) and ether was added to afford the title product as the dihydriodide (5.48 g) m.p. 185°-186° (from isopropyl alcohol). (Found: C, 23.4; H, 3.9; N, 10.9; I, 49.6; S, 12.6; C10H18N4S2.2HI requires: C, 23.4; H, 3.9; N, 10.9; I, 49.4; S, 12.5%).

reactant | N-methyl-N'-[2-((5-methyl-4-imidazolyl)methylthio)ethyl]thiourea | 10.0 g | CNC(=S)NCCSCC=1N=CNC1C | C9H16N4S2
reactant | hydriodic acid | 12.2 ml | I | HI
reactant | methyl iodide | 5.3 ml | CI | CH3I
solvent | methanol | 400 ml | CO | CH4O
product | N,S-Dimethyl-N'-[2-((5-methyl-4-imidazolyl)methylthio)ethyl]isothiourea dihydriodide | I.I.CNC(SC)=NCCSCC=1N=CNC1C | InChI=1S/C10H18N4S2.2HI/c1-8-9(14-7-13-8)6-16-5-4-12-10(11-2)15-3;;/h7H,4-6H2,1-3H3,(H,11,12)(H,13,14);2*1H
